US03987158
The 3,4-dimethylphenyl(thioacetamide) was prepared by passing a slow stream of hydrogen sulphide through a solution of 3,4-dimethylphenylacetonitrile (56.6 g.) in pyridine (60 ml.) and triethylamine (39.4 g.) during 12 hours. The reaction mixture was evaporated under reduced pressure and the residue was recrystallised from a mixture of benzene and light petroleum (b.p. 60°-80°) to give 3,4-dimethylphenyl (thioacetamide), m.p. 91°-94°.

reactant | hydrogen sulphide | S | H2S
reactant | 3,4-dimethylphenylacetonitrile | 56.6 g | CC=1C=C(C=CC1C)CC#N | C10H11N
reactant | triethylamine | 39.4 g | C(C)N(CC)CC | C6H15N
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-dimethylphenyl (thioacetamide) | CC=1C=C(C=CC1C)CC(=S)N | C10H13NS
